US05866712
Preparation of 3-t-Butylperoxy-1,3-dimethylbutyl Hydrogen Oxalate (I-3)
A 50 mL Erlenmeyer flask equipped with a magnetic stirrer and a thermometerwas charged with 50 g of water and 2.8 g (10 mmoles) of 3-t-butylperoxy-1,3-dimethylbutyl chlorooxalate and the resulting mixture was stirred at room temperature. No reaction appeared to be occurring, therefore, 2.1 g (23 mmoles) of NaHCO3 was added. Gas evolution occurred and the organic liquid dissolved in the aqueous phase at room temperature. The pH of the solution was about 9. The aqueous solution was washed twice with 30 mL portions of MTBE in order to remove neutral impurities. Then the aqueous solution was acidified with 20 g (27 mmoles) of aqueous 5% HCl solution and a yellow organic liquid formed. The resulting mixture was extracted twice with 30 mL portions of MTBE. The MTBE extracts were combined, washed once with 50 mL of water, dried over 5% by weight of anhydrous MgSO4, and, after separation of the spent desiccant by filtration, the solvent was removed in vacuo leaving 2.2 g (85% of theory, uncorrected) of a clear yellow liquid. An IR spectrum of the product showed an acid OH band at about 3200 cm-1, a very strong carbonyl band at 1740 cm-1 and a peroxide (--OO--) band at about 875 cm-1.

reactant | 3-t-butylperoxy-1,3-dimethylbutyl chlorooxalate | 10 mmoles, 2.8 g | C(C(=O)OC(CC(C)(C)OOC(C)(C)C)C)(=O)Cl | C12H21ClO5
reactant | NaHCO3 | 23 mmoles, 2.1 g | C(=O)(O)[O-].[Na+]
solvent | water | 50 g | O | H2O
product | 3-t-Butylperoxy-1,3-dimethylbutyl Hydrogen Oxalate | C(C(=O)O)(=O)OC(CC(C)(C)OOC(C)(C)C)C | C12H22O6
